US08791113B2
A solution of 37 mg (0.10 mmol) 5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[2,6]naphthyridin-1-ylamine in 0.5 ml acetic acid was treated with 20.4 mg (0.20 mmol) acetic acid anhydride and heated to 80° C. The reaction mixture was stirred at this temperature for 18 hours. The reaction mixture was cooled to room temperature and partitioned between 25% aqueous ammonia and dichloromethane. The organic phase was dried over sodium sulphate and evaporated. The residue was triturated with tert-butyl-methylether yielding N-{5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[2,6]naphthyridin-1-yl}-acetamide as brown crystals; HPLC/MS (A) 1.64 min, [M+H] 410.

reactant | 5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[2,6]naphthyridin-1-ylamine | 0.10 mmol, 37 mg | FC1=C(C=CC=C1)C1=NC2=NC=CC=C2C(=C1)C1=C2C=CN=C(C2=CC=N1)N | C22H14FN5
reactant | acetic acid anhydride | 0.20 mmol, 20.4 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | N-{5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[2,6]naphthyridin-1-yl}-acetamide | FC1=C(C=CC=C1)C1=NC2=NC=CC=C2C(=C1)C1=C2C=CN=C(C2=CC=N1)NC(C)=O | C24H16FN5O
